US08466282B2
Methyl 3-[(2-methoxyethoxy)methyl]imidazo[1,2-a]pyridine-2-carboxylate
To a solution of methyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-2-carboxylate (0.30 g) in DMF (5 ml) was added sodium hydride (60 mg) under ice-cooling. The mixture was stirred at room temperature for 30 min, 2-methoxyethyl bromide (220 mg) was added under ice-cooling, and the mixture was stirred at 60° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with aqueous potassium carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (0:10-10:0) was concentrated under reduced pressure to give the object product (0.16 g).

reactant | methyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-2-carboxylate | 0.30 g | OCC1=C(N=C2N1C=CC=C2)C(=O)OC | C10H10N2O3
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-methoxyethyl bromide | 220 mg | COCCBr | C3H7BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl 3-[(2-methoxyethoxy)methyl]imidazo[1,2-a]pyridine-2-carboxylate | 0.16 g | COCCOCC1=C(N=C2N1C=CC=C2)C(=O)OC | C13H16N2O4
